### PR TITLE
feat(Geometry/Convex): ordered convex spaces

### PR DESCRIPTION
**Pull request by YaelDillies**
Define ordered convex spaces as those convex spaces for which taking convex combinations is monotone in its inputs. Since `sConvexComb : StdSimplex R X → X`, the best way to do so is to equip `StdSimplex R X` with the stochastic dominance order and requiring `sConvexComb` to be monotone under that order.

Generated by Claude Opus following my existing draft, then reviewed and partly rewritten by myself.

From the convexity refactor. Ordered convex spaces will be used to define convex/concave functions.

Assisted-by: Claude Opus 5

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/ConvexSpace/Order.lean [hunk 1]
```diff
@@ -0,0 +1,208 @@
...
+        Finset.min'_le _ _ <| by simp [hsub w hw y hy, hxy]
+    have hxeq : w₁.upperMass x = w₂.upperMass x := congrFun h x
+    rw [key w₁ Finset.subset_union_left, key w₂ Finset.subset_union_right, h] at hxeq
+    exact add_right_cancel hxeq
+  · simp only [not_exists, not_and, not_lt] at hx
+    have key (w : StdSimplex R X) (hw : w.weights.support ⊆ S) : w.upperMass x = w.weights x :=
+      upperMass_eq_weights fun y hy ↦ not_lt.2 <| hx y <| hsub w hw y hy
+    rw [← key w₁ Finset.subset_union_left, ← key w₂ Finset.subset_union_right, congrFun h x]
+
+instance instPartialOrder : PartialOrder (StdSimplex R X) := .lift upperMass upperMass_injective
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: This could perhaps do with a docstring with a reminder of what the order is. Is an order non-sensical when R is not a linear order, or is it just not interesting here.

File: Mathlib/Geometry/Convex/ConvexSpace/Order.lean [hunk 2]
```diff
@@ -0,0 +1,208 @@
...
+@[gcongr] alias ⟨upperMass_le_upperMass, _⟩ := le_def
+
+lemma forall_le_of_le (h : w₁ ≤ w₂) (h₁ : ∀ y, w₁.weights y ≠ 0 → x ≤ y) :
+    ∀ y, w₂.weights y ≠ 0 → x ≤ y := by
+  rw [← upperMass_eq_one_iff] at h₁ ⊢
+  exact le_antisymm (upperMass_le_one _ _) (h₁ ▸ le_def.1 h x)
+
+@[simp] lemma upperMass_map (w : StdSimplex R I) (f : I → X) (x : X) :
+    (w.map f).upperMass x = (w.weights.filter fun i ↦ x ≤ f i).sum fun _i r ↦ r := by
+  rw [upperMass, weights_map, filter_mapDomain, sum_mapDomain_index (by simp) (fun _ _ _ ↦ rfl)]
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: This isn't about the `le` instance, right? As such, I'd suggest moving it above the instances.

File: Mathlib/Geometry/Convex/ConvexSpace/Order.lean [hunk 3]
```diff
@@ -0,0 +1,208 @@
...
+@[simp] lemma upperMass_single (x y : X) :
+    (single x : StdSimplex R X).upperMass y = if y ≤ x then 1 else 0 := by
+  rw [upperMass, weights_single]
+  split
+  · rw [filter_single_of_pos _ ‹_›, sum_single_index rfl]
+  · rw [filter_single_of_neg _ ‹_›, sum_zero_index]
+
+omit [IsStrictOrderedRing R] in
+lemma upperMass_add_sum_not (w : StdSimplex R X) (x : X) :
+    w.upperMass x + ∑ y ∈ w.weights.support with ¬ x ≤ y, w.weights y = 1 := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: Why are you using the new `with` syntax here but not using it in `upperMass`?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: In `upperMass` it's `Finsupp.sum`, not `Finset.sum`, and we have no notation for the former

File: Mathlib/Geometry/Convex/ConvexSpace/Order.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: No I think it is sensical but I am not sure the definition of the upper mass is the correct one. Is it the same as the one with the lower mass? I think so, but I am not entirely sure yet

File: Mathlib/Algebra/Order/Monoid/Unbundled/Basic.lean [hunk 4]
```diff
@@ -240,6 +241,12 @@ alias add_right_cancel'' := add_right_cancel
 @[to_additive existing, deprecated (since := "2026-03-14")]
 alias mul_right_cancel'' := mul_right_cancel
 
+@[to_additive] lemma le_iff_ge_of_mul_eq_mul [MulLeftMono α] [MulLeftReflectLE α]
+    [MulRightMono α] [MulRightReflectLE α] {a₁ a₂ b₁ b₂ : α} (hab : a₁ * b₁ = a₂ * b₂) :
+    a₁ ≤ a₂ ↔ b₂ ≤ b₁ where
+  mp ha := by grw [← mul_le_mul_iff_left, hab, ha]
+  mpr hb := by grw [← mul_le_mul_iff_right, hab, hb]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Monoid/Unbundled/Basic.lean:248]: Is there an `lt` version too?

File: Mathlib/Data/Finsupp/Basic.lean [hunk 5]
```diff
@@ -730,6 +734,18 @@ variable [AddCommMonoid M]
 lemma filter_add_filter_not (f : α →₀ M) (p : α → Prop) [DecidablePred p] :
     f.filter p + f.filter (¬ p ·) = f := by ext; simp [filter_apply]; split <;> simp
 
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:737]: What's the motivation for this?

File: Mathlib/Geometry/Convex/ConvexSpace/Order.lean [hunk 6]
```diff
@@ -0,0 +1,350 @@
...
+
+/-- `w` puts all of its mass below `x` exactly when its support lies below `x`. -/
+lemma mass_Iic_eq_one_iff : w.mass (Iic x) = 1 ↔ ∀ y, w.weights y ≠ 0 → y ≤ x := mass_eq_one_iff
+
+/-- The standard simplex indexed by a partial order is partially ordered by **stochastic
+dominance**: `w₁ ≤ w₂` iff on each upper set the mass of `w₁` is at most that of `w₂`.
+
+Equivalently, `w₁ ≤ w₂` iff `w₂` puts at most as much mass as `w₁` on each down-set
+(`StdSimplex.le_iff_forall_isLowerSet`), which makes stochastic dominance self-dual. -/
+noncomputable instance instPartialOrder : PartialOrder (StdSimplex R X) where
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: Why noncomputable?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Order.lean]: Used to be necessary before your `@[macro_inline]` PR

File: Mathlib/Data/Finsupp/Basic.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Basic.lean:737]: This is used for the current proof of `mass_map` in `ConvexSpace.Order`. The goal it helps close is `((filter (fun x ↦ x ∈ s) (mapDomain f w.weights)).sum fun _x r ↦ r) = (filter (fun x ↦ f x ∈ s) w.weights).sum fun _x r ↦ r`. The motivation is that further simplications like `sum_mapDomain` apply with `mapDomain` on the outside, while having `filter` on the inside isn't very helpful. Mathematically also, the RHS feels more natural: discard values then map, rather than map then discard values.
